US04227000
Condensation of 2-methoxypyridine-4-carboxaldehyde with malonic acid with subsequent esterification and hydrogenation at 344 kPa and formylation of the product with ethyl formate and sodium hydride gave ethyl 2-formyl-3-(2-methoxy-4-pyridyl)propionate as an oil.

reactant | 2-methoxypyridine-4-carboxaldehyde | COC1=NC=CC(=C1)C=O | C7H7NO2
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium hydride | [H-].[Na+]
product | ethyl 2-formyl-3-(2-methoxy-4-pyridyl)propionate | C(=O)C(C(=O)OCC)CC1=CC(=NC=C1)OC | C12H15NO4
